US05405848
6-Acetyl-2-[4-phenylthiazol-2-yl]amino-5,6,7,8-tetrahydro-4-phenylpyrimidino[4,5-d]pyridine
To 2-guanidino-4-phenylthiazole hydrobromide (13.14 g, 0.044 mol) was added acetone (240 mL), with stirring. Triethylamine (4.45 g, 6.3 mL, 0.044 mol) was added. The resulting solution was heterogeneous. N-Acetyl-3-benzoyl-4-piperidone (7.18 g, 0.029 mol) was dissolved in acetone (30 mL), with gentle warming, then added to the guanidino phenylthiazole solution. The reaction mixture was heated at reflux for three days. The solid which had precipitated was filtered in a sintered glass funnel, and washed with water to remove triethylamine hydrobromide. The remaining solid, composed of the desired product along with a small amount of the excess starting guanidino phenylthiazole, was recrystallized from methanol to give 3.29 g (7.7 mmol) of the title compound as a tan solid; mp 130°-132° C. A second crop precipitated from the mother liquor and was recrystallized from methanol to give an additional 2.7 g (6.3 mmol). The combined yield was 48%.

reactant | 2-guanidino-4-phenylthiazole hydrobromide | 0.044 mol, 13.14 g | Br.N(C(=N)N)C=1SC=C(N1)C1=CC=CC=C1
reactant | Triethylamine | 0.044 mol, 6.3 mL, 4.45 g | C(C)N(CC)CC | C6H15N
reactant | N-Acetyl-3-benzoyl-4-piperidone | 0.029 mol, 7.18 g | C(C)(=O)N1CC(C(CC1)=O)C(C1=CC=CC=C1)=O | C14H15NO3
reactant | guanidino phenylthiazole | N(C(=N)N)C=1N=C(SC1)C1=CC=CC=C1 | C10H10N4S
solvent | acetone | 30 mL | CC(=O)C | C3H6O
solvent | acetone | 240 mL | CC(=O)C | C3H6O
product | 6-Acetyl-2-[4-phenylthiazol-2-yl]amino-5,6,7,8-tetrahydro-4-phenylpyrimidino[4,5-d]pyridine | 7.7 mmol, 3.29 g, yield was 48% | C(C)(=O)N1CCC2=C(C1)C(=NC(=N2)NC=2SC=C(N2)C2=CC=CC=C2)C2=CC=CC=C2 | C24H21N5OS
